.title kicad schematic

.include avsd_opamp.sub
r1 vcc net-_r1-pad2_ 10k
v1 net-_r1-pad2_ gnd sine(10 10 10 10 1)
r2 gnd net-_r2-pad2_ 100k
rl1 net-_rl1-pad1_ vcc 10
x1 vcc /-5v net-_r1-pad2_ net-_r2-pad2_ net-_rl1-pad1_ gnd avsd_opamp
v2 gnd /-5v  dc 50
.tran 1e-00 10e-00 3e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
